US08809361B2
5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1″-(5-n-propyl-pyrimidin-2-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
The title compound is prepared from 5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (HCl salt) and 2-chloro-5-n-propyl-pyrimidine following a procedure analogous to that described for Example 15. LC (method 3): tR=0.88 min; Mass spectrum (ESI+): m/z=510 [M+H]+.

reactant | 5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | CS(=O)(=O)N1CCC(=CC1)C=1C=C2C(=CN1)OC1(CC3(CCNCC3)C1)C2 | C20H27N3O3S
reactant | 2-chloro-5-n-propyl-pyrimidine | ClC1=NC=C(C=N1)CCC | C7H9ClN2
product | 5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1″-(5-n-propyl-pyrimidin-2-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | CS(=O)(=O)N1CCC(=CC1)C=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C3=NC=C(C=N3)CCC)C1)C2 | C27H35N5O3S
